US20010020089A1
2-Chloro-N-(2,2-diphenylethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine
A solution of 2,6-dichloro-9-tetrahydro-2H-pyran-2-yl-9H-purine (Preparation 1) (30.9 g, 0.11 mol) in isopropyl alcohol (600 ml) was treated with N-ethyl-N-isopropyl-2-propanamine (47.5 ml, 0.27 mol) and 2,2-diphenylethylamine (24.8 g, 0.13 mol) and the resulting mixture was heated at reflux for 3 hours. The solvent was removed under reduced pressure and the residue was azeotroped from ethyl acetate. The residue was then purified by column chromatography on silica gel eluting with a gradient system of ethyl acetate:hexane (40:60 by volume) gradually changing to ethyl acetate:hexane (60:40 by volume) to afford the title compound as a foam (49.7 g).

reactant | 2,6-dichloro-9-tetrahydro-2H-pyran-2-yl-9H-purine | 0.11 mol, 30.9 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)Cl | C10H10Cl2N4O
reactant | N-ethyl-N-isopropyl-2-propanamine | 0.27 mol, 47.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,2-diphenylethylamine | 0.13 mol, 24.8 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
solvent | isopropyl alcohol | 600 ml | C(C)(C)O | C3H8O
product | 2-Chloro-N-(2,2-diphenylethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 49.7 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24ClN5O
